US05356898
A solution of 4,6-bis (1,1-dimethylethyl)-5-hydroxy-2-pyrimidine carboxylic acid methyl ester (500 mg) in 1N NaOH (50 mL) is heated at reflux for 1 hour. The reaction mixture is cooled, filtered, and acidified to pH 4 with 1N HCl. The resulting precipitate is collected by filtration and dried at room temperature under vacuum to give pure 4,6-bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidine carboxylic acid (430 mg); mp 200° C. dec.

reactant | 4,6-bis (1,1-dimethylethyl)-5-hydroxy-2-pyrimidine carboxylic acid methyl ester | 500 mg | COC(=O)C1=NC(=C(C(=N1)C(C)(C)C)O)C(C)(C)C | C14H22N2O3
solvent | NaOH | 1N, 50 mL | [OH-].[Na+]
product | 4,6-bis(1,1-dimethylethyl)-5-hydroxy-2-pyrimidine carboxylic acid | 430 mg | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C(=O)O | C13H20N2O3
